US05461067
C. N-((2-(N,N-Dimethylamino)-4-thiazolyl)methoxycarbonyl)valine Methyl Ester
A solution of 505 mg (3.19 mmol) of 2-(N,N-dimethylamino)-4-(hydroxymethyl)thiazole, 3.19 mmol of α-isocyanato-L-valine methyl ester, and 100 mg of 4-dimethylaminopyridine in 30 ml of dichloromethane was heated at reflux for 3 h. The resulting solution was allowed to cool, diluted with dichloromethane, washed sequentially with 10% citric acid, aqueous Na2CO3, and brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by silica gel chromatography using 2% methanol in chloroform to provide 0.95 g (95%) of the desired compound, Rf 0.42 (4% methanol in chloroform).

reactant | 2-(N,N-dimethylamino)-4-(hydroxymethyl)thiazole | 3.19 mmol, 505 mg | CN(C)C=1SC=C(N1)CO | C6H10N2OS
reactant | α-isocyanato-L-valine methyl ester | 3.19 mmol | COC([C@@](N)(C(C)C)N=C=O)=O | C7H12N2O3
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-((2-(N,N-Dimethylamino)-4-thiazolyl)methoxycarbonyl)valine Methyl Ester | 0.95 g, 95% | COC([C@@H](NC(=O)OCC=1N=C(SC1)N(C)C)C(C)C)=O | C13H21N3O4S
